US05541229
4'-[(2-n-Butyl-4-methyl-7-(2-diethylamino-ethoxy)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid dihydrate
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(2-n-butyl-4-methyl-7-(2-diethylamino-ethoxy)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and trifluoroacetic acid.

reactant | tert.butyl 4'-[(2-n-butyl-4-methyl-7-(2-diethylamino-ethoxy)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C(=CC=C2C)OCCN(CC)CC | C36H47N3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-[(2-n-Butyl-4-methyl-7-(2-diethylamino-ethoxy)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid dihydrate | O.O.C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C(=CC=C2C)OCCN(CC)CC | InChI=1S/C32H39N3O3.2H2O/c1-5-8-13-29-33-30-23(4)14-19-28(38-21-20-34(6-2)7-3)31(30)35(29)22-24-15-17-25(18-16-24)26-11-9-10-12-27(26)32(36)37;;/h9-12,14-19H,5-8,13,20-22H2,1-4H3,(H,36,37);2*1H2
